* HEF4093BP SPICE Model
.subckt HEF4093BP 1A 1B 1Y 2Y 2A 2B VSS 3A 3B 3Y 4Y 4A 4B VDD
* 1st NAND gate
XNAND1 1Y 1A 1B VDD VSS NAND_Schmitt
* 2nd NAND gate
XNAND2 2Y 2A 2B VDD VSS NAND_Schmitt
* 3rd NAND gate
XNAND3 3Y 3A 3B VDD VSS NAND_Schmitt
* 4th NAND gate
XNAND4 4Y 4A 4B VDD VSS NAND_Schmitt
.ends HEF4093BP

* Subcircuit for a NAND gate with Schmitt trigger
.subckt NAND_Schmitt Y A B VDD VSS
M1 Y A VDD VDD PMOS L=1u W=10u
M2 Y B VDD VDD PMOS L=1u W=10u
M3 Y A VSS VSS NMOS L=1u W=10u
M4 Y B VSS VSS NMOS L=1u W=10u
R1 A VSS 10k
R2 B VSS 10k
.ends NAND_Schmitt

* PMOS model
.model PMOS PMOS (LEVEL=1 VTO=-1 KP=30u)
* NMOS model
.model NMOS NMOS (LEVEL=1 VTO=1 KP=50u)
