* USB-C Receptacle

.SUBCKT USB_C_RECEPTACLE A1 A2 A3 A4 A5 A6 A7 A8 A9 A10 A11 A12 B1 B2 B3 B4 B5 B6 B7 B8 B9 B10 B11 B12 S1

* Pin definitions
* A1  = GND
* A2  = TX1+
* A3  = TX1-
* A4  = VBUS
* A5  = CC1
* A6  = D+
* A7  = D-
* A8  = SBU1
* A9  = VBUS
* A10 = RX2-
* A11 = RX2+
* A12 = GND
* B1  = GND
* B2  = TX2+
* B3  = TX2-
* B4  = VBUS
* B5  = CC2
* B6  = D+
* B7  = D-
* B8  = SBU2
* B9  = VBUS
* B10 = RX1-
* B11 = RX1+
* B12 = GND
* S1  = SHIELD

* Connections
* GND connections
R_GND1 A1 A1_CONN 0.001
R_GND2 A12 A12_CONN 0.001
R_GND3 B1 B1_CONN 0.001
R_GND4 B12 B12_CONN 0.001

* TX1+
R_TX1_PLUS A2 A2_CONN 0.001

* TX1-
R_TX1_MINUS A3 A3_CONN 0.001

* VBUS
R_VBUS1 A4 A4_CONN 0.001
R_VBUS2 A9 A9_CONN 0.001
R_VBUS3 B4 B4_CONN 0.001
R_VBUS4 B9 B9_CONN 0.001

* CC1
R_CC1 A5 A5_CONN 0.001

* D+
R_D_PLUS_A6 A6 A6_CONN 0.001
R_D_PLUS_B6 B6 B6_CONN 0.001

* D-
R_D_MINUS_A7 A7 A7_CONN 0.001
R_D_MINUS_B7 B7 B7_CONN 0.001

* SBU1
R_SBU1 A8 A8_CONN 0.001

* SBU2
R_SBU2 B8 B8_CONN 0.001

* RX2-
R_RX2_MINUS A10 A10_CONN 0.001

* RX2+
R_RX2_PLUS A11 A11_CONN 0.001

* TX2+
R_TX2_PLUS B2 B2_CONN 0.001

* TX2-
R_TX2_MINUS B3 B3_CONN 0.001

* CC2
R_CC2 B5 B5_CONN 0.001

* RX1-
R_RX1_MINUS B10 B10_CONN 0.001

* RX1+
R_RX1_PLUS B11 B11_CONN 0.001

* SHIELD
R_SHIELD S1 S1_CONN 0.001

.ENDS USB_C_RECEPTACLE
